US04085116
A suspension of 0.242 part of 3-(1H-tetrazol-5-yl)chromone-6-carboxaldehyde in 5 parts by volume of methanol was heated to dissolve the starting compound as much as possible. To the solution under stirring was added little by little 0.038 part of sodium borohydride under warming to obtain a nearly homogeneous solution. The resulting solution was again heated to dissolve completely, and then to the resulting solution was further added little by little 0.019 part of sodium horohydride under warming. The solvent was distilled off, and to the residue was added 20 parts by volume of 1N-hydrochloric acid. The resulting pale yellow precipitates were recovered by filtration and recrystallized from ethanol to obtain 0.090 part of 6-hydroxymethyl-3-(1H-tetrazol-5-yl)chromone as pale yellow crystals. Melting point: 264°-266° C(decomposition)

reactant | 3-(1H-tetrazol-5-yl)chromone-6-carboxaldehyde | N1N=NN=C1C1=COC2=CC=C(C=C2C1=O)C=O | C11H6N4O3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | sodium | [Na] | Na
solvent | methanol | CO | CH4O
product | 6-hydroxymethyl-3-(1H-tetrazol-5-yl)chromone | OCC=1C=C2C(C(=COC2=CC1)C1=NN=NN1)=O | C11H8N4O3
